US08497264B2
In a 350-mL resealable vessel, the (S)-2′-bromo-7′-iodospiro[morpholine-3,9′-xanthene]-5-thione (1.25 g, 2.56 mmol) was dissolved in a dioxane solution of ammonia (0.5 M, 61.5 mL, 30.7 mmol). After the solid had dissolved, mercury(II) chloride (1.043 g, 3.84 mmol) was added. The vessel was sealed and placed in a 55° C. oil bath overnight. The reaction was filtered through Celite, rinsing with DCM (50 mL). The mixture was concentrated to remove the DCM, and Boc2O (0.84 g, 3.84 mmol) and Et3N (0.535 mL, 3.84 mmol) were added. After 1.5 h, the mixture was concentrated, and the residue was purified by chromatography (15% EtOAc/hexanes) to afford impure (S)-tert-butyl 2′-bromo-7′-iodo-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate.

reactant | (S)-2′-bromo-7′-iodospiro[morpholine-3,9′-xanthene]-5-thione | 2.56 mmol, 1.25 g | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)I)NC(COC3)=S | C16H11BrINO2S
reactant | ammonia | 30.7 mmol, 0.5 M, 61.5 mL | N | H3N
reactant | Boc2O | 3.84 mmol, 0.84 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 3.84 mmol, 0.535 mL | CCN(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | mercury(II) chloride | 3.84 mmol, 1.043 g | [Hg](Cl)Cl
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 2′-bromo-7′-iodo-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)I)COCC(=N3)NC(OC(C)(C)C)=O | C21H20BrIN2O4
